US06175007B1
2-Chloro-4-fluoro-5-(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-methyl)oxime
First, 117.1 g (0.85 mol) of potassium carbonate were added to a solution of 281.6 g (0.77 mol) of 2-chloro-4-fluoro-5-(6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-methyl)oxime in 0.8 l of dimethylformamide, whereupon a solution of 120.2 g of methyl iodide (0.85 mol) in 0.1 l of dimethylformamide was added dropwise in the course of 1 hour. The reaction mixture was subsequently stirred for 20 hours at approximately 20° C., and 0.9 l of water was subsequently added dropwise with ice-cooling. The product of value was extracted from the resulting solution using 1 l of dichloromethane. The extract was washed three times using 300 ml of water, dried over sodium sulfate and finally concentrated. Yield: 241 g; m.p.: 141-142° C. (diisopropyl ether).

reactant | potassium carbonate | 0.85 mol, 117.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-fluoro-5-(6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-methyl)oxime | 0.77 mol, 281.6 g | CON=CC1=C(C=C(C(=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)F)Cl | C13H8ClF4N3O3
reactant | methyl iodide | 0.85 mol, 120.2 g | CI | CH3I
reactant | water | 0.9 l | O | H2O
solvent | dimethylformamide | 0.8 l | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.1 l | CN(C=O)C | C3H7NO
product | 2-Chloro-4-fluoro-5-(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-methyl)oxime | CON=CC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C14H10ClF4N3O3
